US04448961
To 1 mole of 6-amino-1-(2,6-dimethylanilino)-2,4-pyrimidinedione dissolved in 3 moles of dilute aqueous hydrochloric acid cooled to 0°-5° in an ice bath is slowly added 1.1 mole of sodium nitrate (dissolved in water at 5°) with rapid stirring. After addition is complete, add dropwise but rapidly 1.1 mole cuprous chloride dissolved in water. Stir for 30 minutes, then heat to 50° for 1 hour. The mixture is cooled to RT and filtered to obtain 6-chloro-1-(2,6-dimethyl anilino)-2,4-pyrimidinedione.

reactant | 6-amino-1-(2,6-dimethylanilino)-2,4-pyrimidinedione | 1 mole | NC1=CC(NC(N1NC1=C(C=CC=C1C)C)=O)=O | C12H14N4O2
reactant | hydrochloric acid | 3 moles | Cl | ClH
reactant | sodium nitrate | 1.1 mole | [N+](=O)([O-])[O-].[Na+]
solvent | water | O | H2O
product | 6-chloro-1-(2,6-dimethyl anilino)-2,4-pyrimidinedione | ClC1=CC(NC(N1NC1=C(C=CC=C1C)C)=O)=O | C12H12ClN3O2
